US08912210B2
Step C: (5-Bromopyridine-2,3-diyl)dimethanediyl dimethanesulfonate
A slurry of (5-bromopyridine-2,3-diyl)dimethanol hydrochloride (12.9 g, 59.2 mmol) in tetrahydrofuran (400 mL) at 0° C. was treated with triethylamine (37.1 mL, 266 mmol). To the resulting mixture was added portionwise methanesulfonic anhydride (30.9 g, 177 mmol), keeping temperature below 5° C. The reaction mixture was stirred at 0° C. for 1 h, then partitioned between saturated aqueous sodium bicarbonate solution (500 mL) and ethyl acetate (500 mL). The organic layer was washed saturated aqueous sodium bicarbonate solution, dried over magnesium sulfate, and concentrated to give the title compound. MS: m/z=376.0 (M+1).

reactant | (5-bromopyridine-2,3-diyl)dimethanol hydrochloride | 59.2 mmol, 12.9 g | Cl.BrC=1C=C(C(=NC1)CO)CO
reactant | triethylamine | 266 mmol, 37.1 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonic anhydride | 177 mmol, 30.9 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
product | (5-Bromopyridine-2,3-diyl)dimethanediyl dimethanesulfonate | CS(=O)(=O)OCC1=NC=C(C=C1COS(=O)(=O)C)Br | C9H12BrNO6S2
